.title Non-Inverting Amplifier (Gain = 1 + R1/R2 = 11)

VCC 10 0 DC 15
VEE 11 0 DC -15

R1 2 3 10k
R2 2 0 1k

OP 3 1 2 10 11 TL072 Rout=75 Imax=0.020 Gain=10000 Sr=13

.input 1
.output 3
.probe opamp-03-non-inverting-amplifier.csv V(input) V(1) V(3)

* V(3) = V(1) * ( 1 + R1 / R2 )